US07943636B2
Hydrochloric acid (0.55 mL of 6 M) was added to a suspension of tert-butyl 4-[(4-bromo-5-cyano-2-methyl-2H-pyrazol-3-yl)methyl]-4-fluoropiperidine-1-carboxylate (446 mg, 1.11 mmol) in ethanol (10 mL), and the reaction was heated at 70° C. for 1.5 hours, allowed to cool to room temperature, and concentrated under reduced pressure to provide 4-bromo-5-[(4-fluoropiperidin-4-yl)methyl]-1-methyl-1H-pyrazole-3-carbonitrile hydrochloride as a white solid.

reactant | Hydrochloric acid | 6 M, 0.55 mL | Cl | ClH
reactant | tert-butyl 4-[(4-bromo-5-cyano-2-methyl-2H-pyrazol-3-yl)methyl]-4-fluoropiperidine-1-carboxylate | 1.11 mmol, 446 mg | BrC1=C(N(N=C1C#N)C)CC1(CCN(CC1)C(=O)OC(C)(C)C)F | C16H22BrFN4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-bromo-5-[(4-fluoropiperidin-4-yl)methyl]-1-methyl-1H-pyrazole-3-carbonitrile hydrochloride | Cl.BrC=1C(=NN(C1CC1(CCNCC1)F)C)C#N | InChI=1S/C11H14BrFN4.ClH/c1-17-9(10(12)8(7-14)16-17)6-11(13)2-4-15-5-3-11;/h15H,2-6H2,1H3;1H
